US05661155
A solution of crude 9-bromomethyl-3-methylbenzo[f]quinazolin-1(2H)-one (4.32 g), (S)-diethyl 2-(5-amino-1-oxo-2-isoindolinyl)glutarate (4.0 g, 12 mmol), and NaHCO3 (2.0 g, 24 mmol) in DMF (30 ml) was stirred under nitrogen at 105° C. for 1.5 hours. After cooling, acetic acid (1 ml, 17 mmol) was added, the reaction mixture transferred to a larger round bottom flask with ethanol, and then concentrated in vacuo onto silica gel (30 g). The absorbed material was purified by chromatography on silica gel eluting with methanol:methylene chloride (1:24) and then precipitation of the solid from methylene chloride (~20 ml) with ethyl acetate (~45 ml) and methanol (~5 ml). The white solid was filtered under nitrogen and dried under high vacuum to give diethyl (S)-2-(5-(((1,2-dihydro-3-methyl-1-oxobenzo[f]-quinazolin-9-yl)methyl)amino)-1-oxo-2-isoindolinyl)glutarate (3.27 g). 1H NMR (DMSO-d6, 300 MHz, δ: 1.10 (t, J=7 Hz, 3H, ester CH3), 1.15 (t, J=7 Hz, 3H, ester CH3), 1.93-2.33 (m, 4H, glu CH2CH2), 2.43 (s, 3H, C3 -CH3) 3.87-4.03 (m, 2H, ester CH2), 4.09 (q, J=7 Hz, 2H, ester CH2), 4.25 (very strongly coupled AB pair, 2H, glu NCH2Ar), 4.58 (d, J=6 Hz, 2H, C9 -CH2N), 4.74-4.83 (m, 1H, glu CH), 6.71 (br d, J=2 Hz, 1H, Ar), 6.74 (dd, J=8,2 Hz, 1H, Ar), 7.20 (t, J=6 Hz, 1H, ArNH), 7.37 (d, J=8 Hz, 1H Ar), 7.59 (d, J=9 Hz, 1H, Ar), 7.63 (dd, J=8,2 Hz, 1H, Ar), 8.00 (d, J=8 Hz, 1H, Ar), 8.21 (d, J=9 Hz, 1H, Ar), 9.87 (s, 1H, Ar), 12.54 (s, 1H, N2H). Mass spectrum (CI-CH4) 557 (M+1, 100%). Anal. Calculated for C31H32N4O6 : C, 66.89; H, 5.79; N, 10.07. Found: C, 66.80; H, 5.82; N, 10.10.

reactant | 9-bromomethyl-3-methylbenzo[f]quinazolin-1(2H)-one | 4.32 g | BrCC=1C=CC2=C(C=3C(NC(=NC3C=C2)C)=O)C1 | C14H11BrN2O
reactant | (S)-diethyl 2-(5-amino-1-oxo-2-isoindolinyl)glutarate | 12 mmol, 4.0 g | NC=1C=C2CN(C(C2=CC1)=O)[C@H](C(=O)OCC)CCC(=O)OCC | C17H22N2O5
reactant | NaHCO3 | 24 mmol, 2.0 g | C(=O)(O)[O-].[Na+]
reactant | acetic acid | 17 mmol, 1 ml | C(C)(=O)O | C2H4O2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | diethyl (S)-2-(5-(((1,2-dihydro-3-methyl-1-oxobenzo[f]-quinazolin-9-yl)methyl)amino)-1-oxo-2-isoindolinyl)glutarate | 3.27 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)CNC=3C=C1CN(C(C1=CC3)=O)[C@H](C(=O)OCC)CCC(=O)OCC | C31H32N4O6
